US05064861
STEP A: 3-benzyloxycarbonyl-1,3-thiazolidine-2-thione
12.9 ml of triethylamine cooled to 0° to 5° C. were added to 10 g of mercapto-thiazoline in solution in 200 ml of methylene chloride, then 12 ml of benzyl chloroformate in solution in 60 ml of methylene chloride were added dropwise. After stirring for 3 hours at ambient temperature, the mixture was poured into an iced solution of N hydrochloric acid and the aqueous phase was extracted with methylene chloride. The organic phase was dried and concentrated to dryness and the residue was chromatographed on silica (eluant: hexane-ethyl acetate 7-3) to obtain 17.9 g of the expected product melting at 72° C.

reactant | triethylamine | 12.9 ml | C(C)N(CC)CC | C6H15N
reactant | mercapto-thiazoline | 10 g | SC=1SCCN1 | C3H5NS2
reactant | benzyl chloroformate | 12 ml | ClC(=O)OCC1=CC=CC=C1 | C8H7ClO2
reactant | hydrochloric acid | Cl | ClH
solvent | methylene chloride | 200 ml | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 60 ml | C(Cl)Cl | CH2Cl2
product | 3-benzyloxycarbonyl-1,3-thiazolidine-2-thione | 17.9 g | C(C1=CC=CC=C1)OC(=O)N1C(SCC1)=S | C11H11NO2S2
